US06057358
1,2-Dibromoethane (24.4 g, 0.13 mol) and 4-nitrophenol (6 g, 0.044 mol) were dissolved in ethyl alcohol (60 ml) and sodium hydroxide (2 g) was added to the solution. The reaction mixture was refluxed for 24 h and thereafter concentrated under vacuum, followed by column chromatography using a 3:1 solvent system of n-hexane and ethyl acetate as an eluent to yield the end compound 1-(4-nitrophenoxy) -2-bromoethane (5.5 g).

reactant | 1,2-Dibromoethane | 0.13 mol, 24.4 g | BrCCBr | C2H4Br2
reactant | 4-nitrophenol | 0.044 mol, 6 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
solvent | ethyl alcohol | 60 ml | C(C)O | C2H6O
product | 1-(4-nitrophenoxy) -2-bromoethane | 5.5 g | [N+](=O)([O-])C1=CC=C(OCCBr)C=C1 | C8H8BrNO3
